* source I-TESTCURRENT-001
I_I2         N17580 0 DC 0Adc AC 0Aac
+PULSE 0 4m 2n 250p 250p 5n 0
R_R1         N17580 ITEST  1k TC=0,0 
R_R2         0 ITEST  1k TC=0,0 
